US05571843
5-hydroxyindan-1,3-dione
4 ml of 10N sulphuric acid were added to a suspension of 0.01 mol of 5-acetoxy-2-carbethoxy-3-hydroxy-1-indanone in 80 ml water. The reaction mixture was refluxed for 15 minutes. The insoluble substance was filtered when hot and the yellow precipitate formed after cooling was dried on vacuo pump, washed in ice water and dried.

reactant | sulphuric acid | 10N, 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-acetoxy-2-carbethoxy-3-hydroxy-1-indanone | 0.01 mol | C(C)(=O)OC=1C=C2C(C(C(C2=CC1)=O)C(=O)OCC)O | C14H14O6
solvent | water | 80 ml | O | H2O
product | 5-hydroxyindan-1,3-dione | OC=1C=C2C(CC(C2=CC1)=O)=O | C9H6O3
